US07405232B2
c) tert-butyl {3-[3-(4-fluoro-phenyl)-5-methyl-[1,2,4]triazol-1-yl]-1,1-dimethyl-propyl}-carbamate
5.88 g (33 mmol) 3-(4-fluoro-phenyl)-5-methyl-[1,2,4]triazole are dissolved in 40 mL DMPU and reacted with 11.04 g (50 mmol) tert-butyl(3-chloro-1,1-dimethyl-propyl)-carbamate, 1.59 g (40 mmol, 60%) sodium hydride and 2.21 g (6 mmol) tetrabutylammonium iodide as described for intermediate product 1c).

reactant | 3-(4-fluoro-phenyl)-5-methyl-[1,2,4]triazole | 33 mmol, 5.88 g | FC1=CC=C(C=C1)C1=NNC(=N1)C | C9H8FN3
reactant | tert-butyl(3-chloro-1,1-dimethyl-propyl)-carbamate | 50 mmol, 11.04 g | C(C)(C)(C)OC(NC(CCCl)(C)C)=O | C10H20ClNO2
reactant | sodium hydride | 40 mmol, 1.59 g | [H-].[Na+]
solvent | DMPU | 40 mL | CN1CCCN(C1=O)C | C6H12N2O
catalyst | tetrabutylammonium iodide | 6 mmol, 2.21 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | tert-butyl {3-[3-(4-fluoro-phenyl)-5-methyl-[1,2,4]triazol-1-yl]-1,1-dimethyl-propyl}-carbamate | FC1=CC=C(C=C1)C1=NN(C(=N1)C)CCC(C)(C)NC(OC(C)(C)C)=O | C19H27FN4O2
